US04594342
A mixture of 0.8 g of (±)-cis-2-(4-methylphenyl)-3-acetoxy-5-[2-(N-methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin- 4(5H)-one hydrobromide, 10 ml of 5% aqueous sodium hydroxide solution and 5 ml of ethanol is stirred at room temperature for 1 hours. After the reaction is completed, the mixture is diluted with water and the aqueous mixture is extracted with chloroform. The extract is washed with aqueous saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is converted to its hydrobromide and recrystallized from ethanol, whereby 0.58 g of (±)-cis-2-(4-methylphenyl)-3-hydroxy-5-[2-(N-methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide is obtained as prisms.

reactant | (±)-cis-2-(4-methylphenyl)-3-acetoxy-5-[2-(N-methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin- 4(5H)-one hydrobromide | 0.8 g | Br.CC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C)=O)=O)CCNC)C=CC=C2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (±)-cis-2-(4-methylphenyl)-3-hydroxy-5-[2-(N-methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide | 0.58 g | Br.CC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCNC)C=CC=C2 | InChI=1S/C19H22N2O2S.BrH/c1-13-7-9-14(10-8-13)18-17(22)19(23)21(12-11-20-2)15-5-3-4-6-16(15)24-18;/h3-10,17-18,20,22H,11-12H2,1-2H3;1H/t17-,18+;/m1./s1
